US05500406
8.73 g (218 mmol) of 60% sodium hydride was suspended in 200 ml of dry tetrahydrofuran, and 50 ml of a dry tetrahydrofuran solution containing 26.7 g (182 mmol) of ethyl N-n-propoxycarbamate, was dropwise added thereto under cooling with ice at a temperature of not higher than 10° C. After raising the temperature to room temperature, the mixture was stirred at the same temperature for 20 minutes and again cooled with ice. Then, 121.4 g (646 mmol) of 1,2-dibromoethane was added all at once. The temperature was gradually raised and then the mixture was refluxed under heating for 2 hours. The mixture was left to cool to room temperature, and the solvent was partially distilled off under reduced pressure. The residue was poured into 100 ml of ice water and extracted three times with 100 ml of chloroform. The chloroform layer was washed with a saturated sodium chloride aqueous solution and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and then 42.0 g of ethyl N-(2-bromoethyl)-N-n-propoxycarbamate was obtained by distillation under reduced pressure.

reactant | sodium hydride | 218 mmol, 8.73 g | [H-].[Na+]
reactant | ethyl N-n-propoxycarbamate | 182 mmol, 26.7 g | C(CC)ONC(OCC)=O | C6H13NO3
reactant | 1,2-dibromoethane | 646 mmol, 121.4 g | BrCCBr | C2H4Br2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | ethyl N-(2-bromoethyl)-N-n-propoxycarbamate | 42.0 g | BrCCN(C(OCC)=O)OCCC | C8H16BrNO3
